US07939533B2
b) (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-hydroxymethyl-phenyl)-6-(-4-methanesulfonyl-3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
A solution of 73 mg (0.093 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-[2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-((S)-4-methanesulfonyl-3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide in 5 ml of a 1 M solution of hydrochloric acid in methanol was stirred at room temperature. Conversion was monitored by thin layer chromatography. After complete consumption of the starting material the reaction mixture was diluted with a 1 M aqueous solution of sodium hydroxide and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 62 mg (quantitative) of the title compound as a light yellow solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-[2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-((S)-4-methanesulfonyl-3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.093 mmol, 73 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C(O[SiH2]C(C)(C)C)(C)C)N1C[C@@H](N(CC1)S(=O)(=O)C)C)(C)C)(F)F | C37H48F6N4O4SSi
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-hydroxymethyl-phenyl)-6-(-4-methanesulfonyl-3-methyl-piperazin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@@H](N(CC1)S(=O)(=O)C)C)(C)C)(F)F | C31H34F6N4O4S
